US08383639B2
5-(Benzyloxy)-2-ethoxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylic acid.
To a stirred solution of LiOH.H2O (1.26 g, 30 mmol) in EtOH (100 mL) at 40° C. was added ethyl 5-(benzyloxy)-1-methyl-2-(methylthio)-6-oxo-1,6-dihydropyrimidine-4-carboxylate (prepared according to the procedure in WO2004062613) (6.7 g, 20 mmol). The resulting reaction mixture was stirred at room temperature for 5 h then concentrated. The residue was taken up in aq. HCl (50 mL) and extracted with EtOAc (2×100 mL). The combined organic fractions were dried (Na2SO4), filtered and concentrated to give the desired product (6 g, 99% yield) as off-white solid which was used in the next step without purification.

reactant | LiOH.H2O | 30 mmol, 1.26 g | O[Li].O
reactant | ethyl 5-(benzyloxy)-1-methyl-2-(methylthio)-6-oxo-1,6-dihydropyrimidine-4-carboxylate | C(C1=CC=CC=C1)OC1=C(N=C(N(C1=O)C)SC)C(=O)OCC | C16H18N2O4S
reactant | EtOH | 100 mL | CCO | C2H6O
product | 5-(Benzyloxy)-2-ethoxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylic acid | 6 g, 99% yield | C(C1=CC=CC=C1)OC1=C(N=C(N(C1=O)C)OCC)C(=O)O | C15H16N2O5
